US08445674B2
A) (S)-4-Benzyloxycarbonylamino-5-hydroxy-pentanoic acid tert-butyl ester
In analogy to G. Kokotos (Synthesis 1990, 299), a solution of 5.00 g (14.8 mmol) of Z-Glu(OtBu)-OH in 74.0 ml of THF was treated at −10° C. with 1.63 ml (14.8 mmol) of 4-methylmorpholine, 1.41 ml (14.8 mmol) of ethyl chloroformate. After 10 min 1.682 g (44.5 mmol) of natriumborohydrid was added in one portion. Methanol (148 ml) was then added dropwise over a period of 25 min at 0° C. The solution was stirred 20 min, and then neutralized with a 10% KHSO4 solution. The organic solvents are evaporated under reduced pressure and the obtained residue is poured on a 10% KHSO4 extracted with EtOAc (3×). The organic phases were washed with aqueous 10% KHSO4, 10% NaCl, dried over Na2SO4 and evaporated to yield 5.16 g (quantitative) of the titled compound as yellow oil. MS: 324.18 (MH+).

reactant | Z-Glu(OtBu)-OH | 14.8 mmol, 5.00 g | N([C@@H](CCC(OC(C)(C)C)=O)C(=O)O)C(=O)OCC1=CC=CC=C1 | C17H23NO6
reactant | 4-methylmorpholine | 14.8 mmol, 1.63 ml | CN1CCOCC1 | C5H11NO
reactant | ethyl chloroformate | 14.8 mmol, 1.41 ml | ClC(=O)OCC | C3H5ClO2
reactant | natriumborohydrid | 44.5 mmol, 1.682 g | [BH4-].[Na+]
reactant | KHSO4 | OS(=O)(=O)[O-].[K+]
solvent | THF | 74.0 ml | C1CCOC1 | C4H8O
solvent | Methanol | 148 ml | CO | CH4O
product | (S)-4-Benzyloxycarbonylamino-5-hydroxy-pentanoic acid tert-butyl ester | C(C)(C)(C)OC(CC[C@@H](CO)NC(=O)OCC1=CC=CC=C1)=O | C17H25NO5
